* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : inv_x1                                       *
* Netlisted  : Sat Nov  8 23:23:58 2025                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_762655034220                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_762655034220 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=4.46017 scb=0.000436376 scc=1.63659e-07 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_762655034220

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_762655034221                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_762655034221 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=39.5501 scb=0.0478163 scc=0.00297126 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_762655034221

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: inv_x1                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt inv_x1 Vin Vout gnd! vdd!
** N=4 EP=4 FDC=2
X0 gnd! Vout Vin nmos1v_CDNS_762655034220 $T=640 820 0 0 $X=220 $Y=620
X1 vdd! Vout Vin gnd! pmos1v_CDNS_762655034221 $T=640 2850 0 0 $X=220 $Y=2650
.ends inv_x1
